US06479536B1
6-[3-(4-Isopropylphenyl)-2,2,4,6,7-pentamethyl-2,3-dihydro-1-benzofuran-5-yl]-6,7-dihydro-5H-[1,3]dioxolo[4,5-f]isoindole
To a solution of 3-(4-isopropylphenyl)-2,2,4,6,7-pentamethyl-2,3-dihydro-1-benzofuran-5-amine (835.5 mg, 2.58 mmol) in tetrahydrofuran (20 ml) were added 5,6-bis(chloromethyl)-1,3-benzodioxazole (574.5 mg, 2.62 mmol), sodium carbonate (832.8 mg, 7.88 mmol), and tetrabutylammonium iodide (481.6 mg, 1.30 mmol) and the mixture was refluxed with heating for 23 hours. The reaction mixture was cooled down to room temperature and then poured into ice water. The product was extracted twice with ethyl acetate. The combined extracts were washed with an aqueous saturated solution of sodium hydrogen carbonate, dried on magnesium sulfate, filtered, and then concentrated under reduced pressure. The residue was crystallized from isopropyl ether to obtain 395.0 mg (33% yield) of the title compound. Melting point: 175-177° C.

reactant | 3-(4-isopropylphenyl)-2,2,4,6,7-pentamethyl-2,3-dihydro-1-benzofuran-5-amine | 2.58 mmol, 835.5 mg | C(C)(C)C1=CC=C(C=C1)C1C(OC2=C1C(=C(C(=C2C)C)N)C)(C)C | C22H29NO
reactant | sodium carbonate | 7.88 mmol, 832.8 mg | C([O-])([O-])=O.[Na+].[Na+]
solvent | tetrahydrofuran | 20 ml | O1CCCC1 | C4H8O
catalyst | tetrabutylammonium iodide | 1.30 mmol, 481.6 mg | [I-].C(CCC)[N+](CCCC)(CCCC)CCCC
product | 6-[3-(4-Isopropylphenyl)-2,2,4,6,7-pentamethyl-2,3-dihydro-1-benzofuran-5-yl]-6,7-dihydro-5H-[1,3]dioxolo[4,5-f]isoindole | 395.0 mg, 33% yield | C(C)(C)C1=CC=C(C=C1)C1C(OC2=C1C(=C(C(=C2C)C)N2CC=1C=C3C(=CC1C2)OCO3)C)(C)C | C31H35NO3
